US05210092
To a stirred solution of 4-bromo-1-(4-tert-butyldiphenylsilyloxymethylphenyl)-2-(1-trityl-1H-tetrazol-5-yl)pyrrole (500 mg) in a mixture of tetrahydrofuran (5 ml) and N,N,N',N'-tetramethylethylenediamine (0.19 ml) was added n-butyl lithium (0.41 ml; 1.6M in n-hexane) at --78° C. under nitrogen atmosphere and the mixture was stirred at the same temperature for half an hour. Ethyl chloroformate (0.3 ml) was added to the mixture at the same temperature and the resulting mixture was stirred at -78° C. for half an hour, at 0° C. for one hour and then at ambient temperature for two hours. The reaction was quenched with aqueous saturated sodium bicarbonate and diluted with ethyl acetate. The organic layer was washed with brine and dried over magnesium sulfate. After filtration, the filtrate was concentrated and the residue was purified by flash chromatography eluted with a mixture of ethyl acetate--n-hexane 1:9 (V/V) to give 1-(4-tert-butyldiphenylsilyloxymethylphenyl)-4-ethoxycarbonyl-2-(1-trityl-1H-tetrazol-5-yl)pyrrole (311 mg) as a colorless viscous oil.

reactant | 4-bromo-1-(4-tert-butyldiphenylsilyloxymethylphenyl)-2-(1-trityl-1H-tetrazol-5-yl)pyrrole | 500 mg | BrC=1C=C(N(C1)C1=CC=C(C=C1)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C47H42BrN5OSi
reactant | n-butyl lithium | 1.6M, 0.41 ml | C(CCC)[Li]
reactant | Ethyl chloroformate | 0.3 ml | ClC(=O)OCC | C3H5ClO2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | N,N,N',N'-tetramethylethylenediamine | 0.19 ml | CN(CCN(C)C)C | C6H16N2
product | 1-(4-tert-butyldiphenylsilyloxymethylphenyl)-4-ethoxycarbonyl-2-(1-trityl-1H-tetrazol-5-yl)pyrrole | 311 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=CC=C(C=C1)N1C(=CC(=C1)C(=O)OCC)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C50H47N5O3Si
